US07723331B2
a) tert-Butyl 4-(3-cyanophenoxy)piperidine-1-carboxylate
tert-Butyl 4-hydroxypiperidine-1-carboxylate (3.49 g, 17.3 mmol) was dissolved in DMF (35 ml) and cooled to 0° C. NaH (1.19 g, 24.8 mmol) was added in small portions over 20 minutes. The reaction was stirred for 30 minutes at 0° C. and 3-fluorobenzonitrile (3.1 ml, 29.0 mmol) added. The reaction was allowed to warm to r.t. over 1 h, stirred for a further 16 h and then quenched by addition of water. The reaction mixture was separated between water (500 ml) and DCM (2×500 ml). The combined organics were washed with water (500 ml), dried through a phase separator and evaporated in vacuo. Purification by flash silica gel chromatography using a 100 g Biotage column with a gradient of 5-40% EtOAc in heptane yielded the title compound as a white solid. Yield: 4.2 g (81%). 1H NMR (400 MHz, CDCl3) δ 7.34 (t, 1H, J=7.9 Hz), 7.21 (d, 1H, J=7.7), 7.14-7.08 (m, 2H), 4.46 (m, 1H), 3.67 (m, 2H), 3.33 (m, 2H), 1.90 (m, 2H), 1.72 (m, 2H), 1.45 (s, 9H).

reactant | tert-Butyl 4-hydroxypiperidine-1-carboxylate | 17.3 mmol, 3.49 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | NaH | 24.8 mmol, 1.19 g | [H-].[Na+]
reactant | 3-fluorobenzonitrile | 29.0 mmol, 3.1 ml | FC=1C=C(C#N)C=CC1 | C7H4FN
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(3-cyanophenoxy)piperidine-1-carboxylate | C(#N)C=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C17H22N2O3
